US08957070B2
3-(2-{7-[Methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)propanoic acid
A mixture of diethyl [(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)methyl]malonate (0.43 g), 1N aqueous sodium hydroxide solution (3.2 mL), tetrahydrofuran (4 mL) and methanol (4 mL) was stirred at 50° C. for 2 hr. The reaction mixture was concentrated, 1N hydrochloric acid (3.2 mL) and ethylene glycol (6 mL) were added to the residue, and the mixture was stirred at 140° C. for 1 hr. Water was added to the reaction mixture and the resulting crystals were collected by filtration, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography and the title compound (0.13 g, yield 37%) was obtained as colorless crystals from a fraction eluted with tetrahydrofuran-hexane (1:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 200-201° C.

reactant | diethyl [(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)methyl]malonate | 0.43 g | CN(C=1C=CC=C2C=C(NC12)C=1SC=C(N1)CC(C(=O)OCC)C(=O)OCC)S(=O)(=O)C=1SC=CC1 | C24H25N3O6S3
reactant | sodium hydroxide | 1N, 3.2 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
product | 3-(2-{7-[Methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)propanoic acid | 0.13 g, yield 37% | CN(C=1C=CC=C2C=C(NC12)C=1SC=C(N1)CCC(=O)O)S(=O)(=O)C=1SC=CC1 | C19H17N3O4S3
